US07319101B2
a) Methyl 2,2-diphenyl-6-thiazol-2-yl-1,3-benzodioxole-4-carboxylate
Methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate (250 mg, 0.608 mmol, 1 eq.) Pd(PPh3)4 (70 mg, 0.06 mmol, 0.1 eq.), bis(pinacolato)diboron (200 mg, 0.79 mmol, 1.3 eq.) and KOAc (90 mg, 0.912 mmol, 1.5 eq.), then Pd(PPh3)4 (70 mg, 0.06 mmol, 0.1 eq.), 2-bromo-thiazole (110 mg, 0.67 mmol, 1.1 eq.) and K2CO3 (420 mg, 3.04 mmol, 5 eq.) were used according to GP6 to yield the title product as a colorless solid.

reactant | Methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | 0.608 mmol, 250 mg, 1 eq. | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC | C21H15BrO4
reactant | bis(pinacolato)diboron | 0.79 mmol, 200 mg, 1.3 eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.912 mmol, 90 mg, 1.5 eq. | CC(=O)[O-].[K+]
reactant | 2-bromo-thiazole | 0.67 mmol, 110 mg, 1.1 eq. | BrC=1SC=CN1 | C3H2BrNS
reactant | K2CO3 | 3.04 mmol, 420 mg, 5 eq. | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.06 mmol, 70 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2,2-diphenyl-6-thiazol-2-yl-1,3-benzodioxole-4-carboxylate | C1(=CC=CC=C1)C1(OC2=C(O1)C=C(C=C2C(=O)OC)C=2SC=CN2)C2=CC=CC=C2 | C24H17NO4S
